datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][C:13](=[C:14]([H:16])[H:17])[H:15],43.5136
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[H:17])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:10],127.194
[O:0]([O:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8].[O:19][O:20]>>[O:0]([O:1][C:2]1([H:9])[C:3]([H:10])([O:19][O:20])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8],0.0
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27],111.713
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11])[H:6],18.3259
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([S:17][H:22])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:18])([H:19])[H:20])([S:17][H:22])[H:21],7.5312
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:9](=[C:10]([H:12])[H:13])[H:11])[H:5],6.65256
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([O:7][O:8][H:19])([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]([H:15])([H:16])[H:17])([H:14])[O:5]1.[O:6][H:18],46.8608
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9](=[S:10])[H:11]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9](=[S:10])[H:11],46.4424
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([C:5]([O:6])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]([C:5]([O:6][H:10])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:7])([H:8])[H:9],79.9144
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[C:25](=[O:26])[H:27]>>[C-:25]#[O+:26].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])([H:9])[H:27],0.0
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]12[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]2([H:19])[H:20]>>[C:0]([C:1](=[C:2]([C:3]([H:13])[H:14])[H:12])[H:11])(=[C:4]1[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:10],121.336
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])[H:8])([H:5])([H:6])[H:7],45.9822
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16][C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16](=[C:15]([H:18])[H:19])[C:17]([H:20])([H:21])[H:22],-12.552
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])([H:14])[H:15])=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([C:7]([H:19])([H:20])[H:21])([H:18])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],94.7676
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])([O:15][O:16])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:16][O:15][C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([C:14]([H:23])([H:24])[H:25])[H:22],71.128
